US04092311
A 2.67 g. portion of 6-(p-bromophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone (prepared as described in Example 38 of U.S. Pat. No. 3,824,271) is suspended in 20 ml. of acetic acid. A 1.91 g. (0.62 ml.) portion of bromine in 5 ml. of acetic acid is added dropwise, while the reaction mixture is heated on a steam bath. Heating is continued for an additional 30 minutes. The reaction mixture is poured into crushed ice. The resulting solid is recovered by filtration, washed with water and dried, yielding 6-(p-bromophenyl)-5-methyl-3(2H)-pyridazinone.

reactant | 6-(p-bromophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | BrC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H11BrN2O
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(p-bromophenyl)-5-methyl-3(2H)-pyridazinone | BrC1=CC=C(C=C1)C=1C(=CC(NN1)=O)C | C11H9BrN2O
